US05360812
80 ml of 14% strength sodium hypochlorite solution are rapidly added dropwise at 0° C. to a solution of 3.0 g (12 mmol) of 1-benzylpiperidine-2,3,4-trione-3,4-dioxime in 80 ml of 10% strength sodium hydroxide solution. The deposited precipitate is immediately filtered off with suction, washed with water and dried in vacuo. 2.6 g (87%) of 5-benzyl-6,7-dihydro[1,2,5]oxadiazolo[3,4-c]pyridin-4(5H)-one-1-oxide, m.p. 118°-120° C., are obtained, 1H-NMR (DMSO): δ=2.95 (t), 3.65 (t), 4.70 (t), 7.35 (s), 13C-NMR (DMSO): δ=18.0 (t), 44.8 (t), 49.2 (t), 111.9 (s), 127.4 (d), 127.7 (d), 128.5 (d), 136.2 (s), 149.6 (s), 155.7 (s).

reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | 1-benzylpiperidine-2,3,4-trione-3,4-dioxime | 12 mmol, 3.0 g | C(C1=CC=CC=C1)N1C(C(C(CC1)=NO)=NO)=O | C12H13N3O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 5-benzyl-6,7-dihydro[1,2,5]oxadiazolo[3,4-c]pyridin-4(5H)-one-1-oxide | 2.6 g, 87% | C(C1=CC=CC=C1)N1C(C=2C(CC1)=[N+](ON2)[O-])=O | C12H11N3O3
